US08563575B2
A mixture of 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (8.7 g), tert-butyl 4-hydroxyphenylcarbamate (6.4 g) and cesium carbonate (20 g) in DMF (60 mL) was stirred at 60° C. for 24 h. After cooling to room temperature, to the mixture was added SiO2, the mixture was evaporated, and then the residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give tert-butyl {4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}carbamate (14 g) as brown oil.

reactant | 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 8.7 g | ClC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C13H19ClN2OSi
reactant | tert-butyl 4-hydroxyphenylcarbamate | 6.4 g | OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H15NO3
reactant | cesium carbonate | 20 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-butyl {4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}carbamate | 14 g | C[Si](CCOCN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)NC(OC(C)(C)C)=O)(C)C | C24H33N3O4Si
